Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chief Complaint: "I'm fine..." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness: For further details of the history 
and presentation, please see OMR, including Dr. ___ 
and Dr. ___ initial consultation notes dated 
___ and Dr. ___ admission note dated ___. 
.
Briefly, this is a ___ year old single woman, currently a 
freshman at ___, no formal psychiatric 
history, who presented to ___ ED via campus police after a 
friend called concerned for her safety. 
.
Upon initial interview, Ms. ___ reported she had been 
struggling with anxiety for the past several years, but that it 
has worsened over the past year after moving from ___ to 
___ to attend ___. Reported periods of difficulty breathing, 
chest tightness, not hearing things accurately that occur about 
once a week. In addition, she reported suicidal thoughts for 
about a year; she stated that on the night prior to presentation 
she was talking with her friend from back home, ___ about 
it. At one pint, ___ felt she was not safe and called 
campus police. 
.
Patient reported having suicidal plans in the past including 
slitting her wrists, overdosing on medications, and jumping off 
the roof her 17 story building. Reported she had come close to 
executing these plans in the past, specifically counting and 
recounting a bottle of advil last year. Reported she felt the 
universe would not notice if she killed herself and felt as if 
she would be better off dead rather than having another anxiety 
attack. Patient reported a history of cutting, stating she last 
cut 1 week ago using scissors on her hip. 
.
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
.
On my interview with Ms. ___, who was a reliable historian, 
she confirmed the history initially presented in the ED. Ms. 
___ reported she has been struggling with anxiety for the 
past several years but notes that it has recently been worsening 
in the setting of academic stressors. Patient noted she has 
always been "high strung" and stated she tends to have 
"impossibly high standards" for herself, particularly when it 
comes to academics. Ms. ___ noted this past semester has 
been challenging and stated that several weeks ago she was 
feeling "super overwhelmed" with a number of exams and projects 
due. She stated that several nights prior to presentation she 
had been talking with her friend, ___, whom she states has 
suffered with depression and thoughts of self harm in the past, 
asking for help. She did admit she had been thinking of suicide, 
stating, "if I disappeared, most people wouldn't notice, it 
wouldn't necessarily make people feel sad, and if it doesn't 
matter to others, why am I doing this?" Patient noted that her 
upcoming week was also going to be very intense with her 
coursework and she was unsure if she could tolerate another week 
of this. 
.
Although somewhat reluctant, patient admitted to ___ and stated 
she had been looking up lethal doses of Advil, noting that she 
would have to take 161 tablets in order to kill herself. Unclear 
why she did not go through with her plan, although the patient 
did report that she likes programming and she also was looking 
forward to some ___ releases this ___. 
.
Patient reported her anxiety is more troublesome than her 
depression, noting that at times she will have difficulty 
breathing and feel her heart racing, sometimes hours to days at 
a time. Reported some depression, and reported her sleep as 
"fine," but only sleeps about ___ hours per night, stating she 
goes to
bed at about ___ am and wakes up at 9am. Of note, she does not 
feel rested. Reported energy has been "fine" and denied changes 
in appetite or weight. 
.
On psychiatric review of systems, patient denied history of 
manic symptoms including decreased need for sleep, worsening 
impulsivity, grandiosity, hyper sexuality. Denied history of 
psychosis including AVH, paranoia. Denied drug or alcohol abuse. 
Gave permission to talk with her parents, sister at this time. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: no known formal diagnoses 
- SA/SIB: denies/history of cutting with last event 1 week prior
to admission 
- Hospitalizations:  denies 
- Psychiatrist: none 
- Therapist: none 
- Medication Trials: none 
.
Past Medical History: 
- Denies 
.
Medications: None 
.
Allergies: NKDA 

 
Social History:
Substance History:  
- Alcohol: denies 
- Illicits: denies
- Tobacco: denies 
.
Social History: Patient reports she was born and raised in 
___ as the youngest of five children. Reported her 
mother works as a ___ for a "safe environment" and 
described her mother as "less laid back as my father but when 
she sees something, she fixes it." Reported her father is 
retired but used to work as a ___ with training as 
an ___. Reported him as being "laid back" and 
easy going. Reported a "good childhood," noting she did very 
well in school to the point where she exceeded what her local 
school could provide her. As a ___, she transferred to a STEM 
academy, which she stated was a good experience, noting she met 
friends there and discovered she did not want to be an 
___, stating she became interested in ___. 
Graduated with a 4.0 GPA and is currently a freshman at 
___ studying ___ science. States her 
first semester went well but that she may get 3 B's her second 
semester. Of note, she has
a scholarship for which she needs to maintain a 3.5 GPA in order 
to keep. Reported her sister currently lives in ___ and works 
as a ___; states her family is supportive. Denies history 
of physical or sexual abuse. Denies access to weapons. States 
she is in a long distance relationship with her boyfriend who 
lives in ___. 

 
Family History:
Family History: 
-multiple siblings with anxiety
-maternal aunt with bipolar disorder and history of prior 
suicide
attempt
-maternal side of family with anxiety
-no FH of suicide, no FH of substance use 
 
Physical Exam:
Vital Signs: 97.6 PO BP: 118/82 HR: 67 RR: 16 O2 sat: 100% 
.
Mental Status Examination: 
A/B: Appears stated age, dressed casually with good hygiene and
grooming, calm, cooperative with interviewer, good eye contact,
no psychomotor agitation or retardation noted 
S: normal rate, volume, prosody 
M: "okay" 
A: dysthymic at times, anxious, mood congruent, appropriate 
TC: see HPI 
TP: linear, logical, goal and future oriented 
C: awake, alert and oriented x3 
___: above average 
I/J: fair/fair 

 
Pertinent Results:
___ 07:55PM   GLUCOSE-95 UREA N-8 CREAT-0.7 SODIUM-142 
POTASSIUM-4.6 CHLORIDE-106 TOTAL CO2-25 ANION GAP-11
___ 07:55PM   ALT(SGPT)-7 AST(SGOT)-11 ALK PHOS-42 TOT 
BILI-0.3
___ 07:55PM   CALCIUM-9.5 PHOSPHATE-3.9 MAGNESIUM-2.2
___ 07:55PM   VIT B12-488
___ 07:55PM   TSH-2.3
___ 07:55PM   HCG-<5
___ 12:35AM URINE  UCG-NEGATIVE
___ 12:35AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:35AM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 12:35AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 12:35AM URINE  RBC-128* WBC-<1 BACTERIA-FEW* YEAST-NONE 
EPI-1
___ 12:35AM URINE  AMORPH-OCC*
___ 12:35AM URINE  MUCOUS-RARE*
___ 10:41PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 10:41PM   WBC-6.8 RBC-4.03 HGB-11.9 HCT-36.4 MCV-90 
MCH-29.5 MCHC-32.7 RDW-12.4 RDWSD-41.4
___ 10:41PM   NEUTS-51.5 ___ MONOS-7.5 EOS-1.0 
BASOS-1.0 IM ___ AbsNeut-3.52 AbsLymp-2.65 AbsMono-0.51 
AbsEos-0.07 AbsBaso-0.07
___ 10:41PM   PLT COUNT-274
 
Brief Hospital Course:
#. LEGAL & SAFETY: Patient admitted to Deaconess 4 on a ___, upon admission
she signed a conditional voluntary agreement (Section 10 & 11), 
which was accepted. She maintained her safety throughout her 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints.   
.
#. GAD/MDD
Patient presented complaining of symptoms of anxiety including 
excessive worry with frequent panic attacks as well as 
neurovegetative symptoms of depression including poor sleep, 
decreased energy, impaired concentration, and lack of 
motivation, though she denied low mood or anhedonia; she 
complained of SI with plan in the setting of uncontrollable 
anxiety and fear that she would lose her scholarship due to 
inadequate academic performance. Family history significant for 
anxiety disorders in multiple siblings as well as bipolar 
disorder in a maternal aunt. The patient was educated on the 
risks and benefits of using an SSRI to treat anxiety and mood 
and was started on sertraline titrated to 50 mg PO daily using 
valium 2.5 mg PO BID PRN acute anxiety or panic- we explained 
the plan to eventually taper and discontinue valium once 
symptoms were better controlled. She participated in individual 
and group therapy sessions intended to cultivate coping skills 
learning a variety of mindfulness techniques and breathing 
exercises. She consistently denied SI while in the hospital 
demonstrating goal- and future-oriented thinking with plan to 
complete the semester and return to ___ in the summer. The 
patient's mother participated in a family meeting prior to her 
discharge and was in agreement with the plan to follow up with 
outpatient therapy and psychopharmacology at ___ and in ___ 
while home. On day of discharge, plan was for Ms. ___ to 
attend ___ appointment with her mother and stay with her 
mother over the weekend in an Air BnB. 
.
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit, actively 
engaged in sessions focused on the cultivation of various coping 
skills.  She was noted to be visible in the milieu, minimally 
sociable but appropriate with peers, and cooperative with staff 
and care.
.
#. Medical: no acute medical issues during this hospitalization. 

. 
RISK ASSESSMENT & PROGNOSIS:
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
untreated anxiety with suicidal ideation with plan. Their static 
factors noted at that time include Caucasian race and age; 
modifiable risk factors, including active suicidal ideation and 
lack of outpatient psychiatric treaters were also addressed at 
that time via initiation of psychotropic medications and 
referral to psychiatric aftercare.  The patient is being 
discharged with many protective risk factors, including familial 
involvement in patient's care, supportive social network, 
resolution of SI, understanding of psychiatric illness, 
medication compliance, and good coping skills. Based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others.
.
Our Prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Diazepam 2 mg PO BID PRN anxiety 
RX *diazepam [Valium] 2 mg Take 1 Tab by mouth BID PRN Disp #*10 
Tablet Refills:*0 
2.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg Take 1 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder 
Generalized Anxiety Disorder

 
Discharge Condition:
- VS: T 98.2 | BP 121/83 | HR 85 | RR 16 | SpO2 98% RA
- Appearance: appears stated age, dressed casually with good
hygiene and grooming 
- Behavior: calm, cooperative with interviewer, good eye 
contact,
good eye contact, no psychomotor agitation or retardation noted 
- Mood and Affect: 'OK' *gesturing with two thumbs up /
brighter, less restricted, mood congruent, appropriate 
- Thought process: linear, logical, goal and future oriented  
- Thought Content: denies SI/HI/AVH, does not appear to be 
responding to internal stimuli
- Judgment and Insight: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___